US06525042B1
1-[[(6RS)-6-(N-tert-Butoxycarbonylaminomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl]carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In a similar manner to Referential Example 48 except for the use of (2RS)-2-(N-tert-butoxycarbonylaminomethyl)-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride, the reaction was conducted, whereby the title compound was obtained.

reactant | (2RS)-2-(N-tert-butoxycarbonylaminomethyl)-6-methoxycarbonyl-1,2,3,4-tetrahydronaphthalene | C(C)(C)(C)OC(=O)NCC1CC2=CC=C(C=C2CC1)C(=O)OC | C18H25NO4
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[[(6RS)-6-(N-tert-Butoxycarbonylaminomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl]carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)NCC1CC=2C=CC(=CC2CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C31H36ClN3O5S
